US04430346
Into 4.5 ml of dimethylformamide, was dissolved 610 mg of (S)-7-guanidino-3-hydroxyheptanamide hydrochloride followed by the addition of 1.2 ml of pyridine and 4.6 ml of n-octanoic anhydride. The solution was heated with stirring at 60° C. for 24 hours. The reaction mixture was admixed with 20 ml of ice water, left standing for 30 minutes, then admixed with 20 ml of ethyl acetate, and left standing to effect phase separation. The ethyl acetate layer was extracted 4 times with 30 ml of 0.5 N hydrochloride acid. The aqueous layers were combined, neutralized with 2 N aqueous sodium hydroxide solution, then concentrated under reduced pressure, and treated, as in Example 2, with CM Sephadex® and Sephadex® LH-20 to obtain 630 mg of purified (S)-7-guanidino-3-octanoyloxyheptanamide hydrochloride in oily form. NMR: 0.92 (CH3), 1.1-1.9 (CH2 x8), 2.30 (COCH2), 2.50 (CH2), 3.20 (CH2), 5.18 (CH).

reactant | dimethylformamide | 4.5 ml | CN(C=O)C | C3H7NO
reactant | (S)-7-guanidino-3-hydroxyheptanamide hydrochloride | 610 mg | Cl.N(C(=N)N)CCCC[C@@H](CC(=O)N)O
reactant | pyridine | 1.2 ml | N1=CC=CC=C1 | C5H5N
reactant | n-octanoic anhydride | 4.6 ml | C(CCCCCCC)(=O)OC(CCCCCCC)=O | C16H30O3
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | (S)-7-guanidino-3-octanoyloxyheptanamide hydrochloride | 630 mg | Cl.N(C(=N)N)CCCC[C@@H](CC(=O)N)OC(CCCCCCC)=O | InChI=1S/C16H32N4O3.ClH/c1-2-3-4-5-6-10-15(22)23-13(12-14(17)21)9-7-8-11-20-16(18)19;/h13H,2-12H2,1H3,(H2,17,21)(H4,18,19,20);1H/t13-;/m0./s1
